US07696231B2
Methyl 6-{[2-(5-iodo-2-oxo-1,2-dihydro-3H-indol-3-ylidene)hydrazino]-carbonyl}nicotinate
Following the general method as outlined in Example 1, into a suspension of 5-iodo-1H-indole-2,3-dione in acetic acid was added methyl 6-(hydrazinocarbonyl)nicotinate. After stirring at 100° C., the reaction mixture was cooled to rt and a yellow solid precipitated out. Filtration on a fritté, washing with AcOH, water and drying under vacuo at 60° C. overnight gave 33 mg of the title compound (73%) as a yellow solid in 89.7% purity by HPLC (Rt: 4.44, gradient of 8 min, MaxPlot detection between 230 and 400 nm).

reactant | 5-iodo-1H-indole-2,3-dione | IC=1C=C2C(C(NC2=CC1)=O)=O | C8H4INO2
reactant | methyl 6-(hydrazinocarbonyl)nicotinate | N(N)C(=O)C1=NC=C(C(=O)OC)C=C1 | C8H9N3O3
solvent | acetic acid | C(C)(=O)O | C2H4O2
product | Methyl 6-{[2-(5-iodo-2-oxo-1,2-dihydro-3H-indol-3-ylidene)hydrazino]-carbonyl}nicotinate | 33 mg, 73% | IC=1C=C2C(C(NC2=CC1)=O)=NNC(=O)C1=NC=C(C(=O)OC)C=C1 | C16H11IN4O4
